US06436959B1
N,N-Diethyl-4-[3-acetoxyphenyl(1-propylpiperidin-4-yl)amino]benzamide Hydrochloride[1:1], C46
A solution of 0.96 g (2.3 mmol) of N,N-diethyl-4-[3-hydroxyphenyl(1-propylpiperidin-4-yl)amino]benzamide was stirred in 20 mL of CH2Cl2 and 0.17 mL of acetyl chloride was added. The mixture was stirred for 2 h. The solvent was evaporated and the residue recrystallized from 2-PrOH to give 0.7 g (62% yield) of the title compound as a white crystalline solid: mp 218-219° C. MS m/z=452 (M++H). 300 MHz 1H NMR (DMSO-d6) δ7.3 (d 2H); 7.2 (m, 1H);6.9 (d, 2H);6.7 (m, 2H);4.1 (t, 3H); 3.6 (d, 2H); 3.4 (m, 4H); 2.8 (m, 4H); 2.4(m, 2H); 2.2(s, 3H) 2.1 (d, 2H); 1.9 (m, 2H); 1.2 (t, 6H), 1.0 (t, 3H). Anal calcd. for C27H37N3O3.HCl: C, 66.45; H, 7.45; N, 8.61. Found: C, 66.07; H, 7.83; N, 8.32.

reactant | N,N-diethyl-4-[3-hydroxyphenyl(1-propylpiperidin-4-yl)amino]benzamide | 2.3 mmol, 0.96 g | C(C)N(C(C1=CC=C(C=C1)N(C1CCN(CC1)CCC)C1=CC(=CC=C1)O)=O)CC | C25H35N3O2
reactant | acetyl chloride | 0.17 mL | C(C)(=O)Cl | C2H3ClO
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | N,N-Diethyl-4-[3-acetoxyphenyl(1-propylpiperidin-4-yl)amino]benzamide Hydrochloride | 0.7 g, 62% yield | Cl.C(C)N(C(C1=CC=C(C=C1)N(C1CCN(CC1)CCC)C1=CC(=CC=C1)OC(C)=O)=O)CC | InChI=1S/C27H37N3O3.ClH/c1-5-17-28-18-15-24(16-19-28)30(25-9-8-10-26(20-25)33-21(4)31)23-13-11-22(12-14-23)27(32)29(6-2)7-3;/h8-14,20,24H,5-7,15-19H2,1-4H3;1H
